US04184867
(a) Preparation of 4-(Isopropylthio)-3-(trifluoromethyl)nitrobenzene
To a solution containing 112.8 g (0.5 mole) of 2-chloro-5-nitrobenzotrifluoride and 46 g (0.6 mole) of isopropyl mercaptan in 400 ml of DMSO was added dropwise over 0.5 hour 40 g of 50% aqueous sodium hydroxide. This addition was exothermic to 50° C. After 24 hours, the reaction mixture was poured into ice water and extracted with 3×200 ml of methylene chloride. The combined extracts were washed with water, dried and concentrated to give 132 g (99%) of product as an orange liquid.

reactant | 2-chloro-5-nitrobenzotrifluoride | 0.5 mole, 112.8 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3ClF3NO2
reactant | isopropyl mercaptan | 0.6 mole, 46 g | C(C)(C)S | C3H8S
reactant | sodium hydroxide | 40 g | [OH-].[Na+]
solvent | DMSO | 400 ml | CS(=O)C | C2H6OS
product | 4-(Isopropylthio)-3-(trifluoromethyl)nitrobenzene | 132 g, 99% | C(C)(C)SC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C10H10F3NO2S
